US04041071
A solution of trans 3-bromocinnamoyl chloride (12.3 g) in anhydrous toulene (150 ml) was added slowly with stirring to a solution of ethylamine (10 g) in dry ether (100 ml) at room temperature. The reaction mixture was heated at reflux for 1 hour, and the solvent and excess amine were then removed under reduced pressure. The residue was triturated with water, filtered, and recrystallized from ethanol-water to give trans 3-bromo-N-ethylcinnamamide, m.p. 89°-90° C., as a white crystalline material. NMR and IR spectra as well as elemental analysis were consistent with the assigned structure.

reactant | trans 3-bromocinnamoyl chloride | 12.3 g | BrC=1C=C(/C=C/C(=O)Cl)C=CC1 | C9H6BrClO
reactant | ethylamine | 10 g | C(C)N | C2H7N
solvent | ether | 100 ml | CCOCC | C4H10O
product | trans 3-bromo-N-ethylcinnamamide | BrC=1C=C(/C=C/C(=O)NCC)C=CC1 | C11H12BrNO
